### PR TITLE
[Merged by Bors] - feat(Mathlib/CategoryTheory/EffectiveEpi/Types): Effective epi in types

### PR DESCRIPTION
**Pull request by yonggyuchoimath**
This PR characterizes effective epimorphisms in the category `Type u`, proving that a function of types is an effective epimorphism if and only if it is surjective.

The main results:

`regularEpi_iff_surjective`: A function f : `X → Y` in `Type u` is a regular epimorphism if and only if it is surjective.
`effectiveEpi_iff_surjective`: A function f : `X → Y` in `Type u` is an effective epimorphism if and only if it is surjective.

### CODE REVIEW

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+  exact Quot.sound (Coequalizer.Rel.intro (Subtype.mk (Prod.mk _ _) h'))
+
+/-- If `f : X ⟶ Y` is surjective, so is `fromCoequalizerPullbackCone f`. -/
+lemma surjective_fromCoequalizerPullbackCone (hf : Surjective f) :
+    Surjective (fromCoequalizerPullbackCone f) := by
+  intro y
+  obtain ⟨x, _⟩ := hf y
+  exact ⟨Quot.mk _ x, by simpa⟩
+
+/-- If `f : X ⟶ Y` is surjective, then `fromCoequalizerPullbackCone f` is surjective. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: Note that we do not require docstrings for lemmas, especially when the statement is very clear from the code, which is the case here:
```suggestion
/-- If `f : X ⟶ Y` is surjective, then `fromCoequalizerPullbackCone f` is bijective. -/
```

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+  mp := fun ⟨_⟩ => surjective_of_epi _
+  mpr := fun hf => ⟨regularEpiPullbackOfSurjective hf⟩
+
+/-- A morphism in the category of types is an effective epimorphism if and only if
+it is a surjective function. -/
+lemma effectiveEpi_iff_surjective {X Y : Type u} {f : X ⟶ Y} : EffectiveEpi f ↔ Surjective f where
+  mp := fun h => regularEpi_iff_surjective.mp ⟨by infer_instance⟩
+  mpr := fun h => by
+    let := (regularEpi_iff_surjective.mpr h).some
+    infer_instance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: This is a slightly preferred syntax:
```suggestion
  mp h := regularEpi_iff_surjective.mp ⟨by infer_instance⟩
  mpr h := by
    let := (regularEpi_iff_surjective.mpr h).some
    infer_instance
```

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean [hunk 3]
```diff
@@ -0,0 +1,113 @@
...
+end CoequalizerPullbackCone
+
+section RegularEpi
+
+/-- A morphism in the category of types has a sturcture of a regular epimorphism if and only if
+it is a surjective function. -/
+lemma regularEpi_iff_surjective {X Y : Type u} {f : X ⟶ Y} :
+    Nonempty (RegularEpi f) ↔ Surjective f where
+  mp := fun ⟨_⟩ => surjective_of_epi _
+  mpr := fun hf => ⟨regularEpiPullbackOfSurjective hf⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EffectiveEpi/Types.lean]:
```suggestion
  mpr hf := ⟨regularEpiPullbackOfSurjective hf⟩
```

**Comment by yonggyuchoimath** [comment]
Thanks for your review!

**Comment by yonggyuchoimath** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean [hunk 4]
```diff
@@ -0,0 +1,113 @@
...
+  Function.Coequalizer.desc _ _ f (funext fun p => p.2)
+
+variable (f) in
+/-- `fromCoequalizerPullbackCone f` is always injective. -/
+lemma injective_fromCoequalizerPullbackCone : Injective (fromCoequalizerPullbackCone f) := by
+  intro z₁ z₂ h
+  rw [← Quot.out_eq z₁, ← Quot.out_eq z₂]
+  have h' : f (Quot.out z₁) = f (Quot.out z₂) := by
+    rwa [← Coequalizer.desc_mk _ _ f _ _, ← Coequalizer.desc_mk _ _ f _ _,
+      Coequalizer.mk, Coequalizer.mk, Quot.out_eq, Quot.out_eq]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: Could you try whether `← Coequalizer.desc_mk _ _ f` works, or even `← Coequalizer.desc_mk`?

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean [hunk 5]
```diff
@@ -0,0 +1,113 @@
...
+  right := (Types.pullbackCone f f).snd
+  w := funext fun p => p.2
+  isColimit := by
+    refine Cofork.isColimitOfIsos _
+      (coequalizerIsCoequalizer (Types.pullbackCone f f).fst (Types.pullbackCone f f).snd) _
+      (.refl _) (.refl _) (coequalizerPullbackConeOfSurjective hf) ?_ ?_ ?_
+    · simp
+    · simp
+    · rw [coequalizerPullbackConeOfSurjective]
+      cat_disch
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: Untested:
```suggestion
    refine Cofork.isColimitOfIsos _
      (coequalizerIsCoequalizer (Types.pullbackCone f f).fst (Types.pullbackCone f f).snd) _
      (.refl _) (.refl _) (coequalizerPullbackConeOfSurjective hf) (by simp) (by simp) ?_
    rw [coequalizerPullbackConeOfSurjective]
    cat_disch
```

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean (hunk 4 above)
Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: Changing them to `← Coequalizer.desc_mk _ _ f` works, but `← Coequalizer.desc_mk` returns:
```
Invalid rewrite argument: The pattern to be substituted is a metavariable (`?u ?x`) in this equality
  ?u ?x = Coequalizer.desc ?f ?g ?u ?hu (Coequalizer.mk ?f ?g ?x)
```

**Comment by yonggyuchoimath** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/EffectiveEpi/Types.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/EffectiveEpi/Types.lean]: Then, please remove the last two `_`?

**Comment by yonggyuchoimath** [comment]
-awaiting-author

**Review by erdOne — COMMENTED** [review]
I have yet to read contents of the PR in full but I think we already have the result mentioned in the PR comment via [`CategoryTheory.RegularEpi.ofSplitEpi`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Shapes/RegularMono.html#CategoryTheory.RegularEpi.ofSplitEpi) and [`CategoryTheory.instEffectiveEpiOfRegularEpi`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/EffectiveEpi/RegularEpi.html#CategoryTheory.instEffectiveEpiOfRegularEpi) and [`CategoryTheory.instSplitEpiCategoryType`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Types/Basic.html#CategoryTheory.instSplitEpiCategoryType)?

In particular this works in current mathlib
```
import Mathlib

open CategoryTheory

attribute [instance] isSplitEpi_of_epi

instance {X Y : Type _} (f : X ⟶ Y) [Epi f] : EffectiveEpi f := inferInstance
```

**Comment by yonggyuchoimath** [comment]
> I have yet to read contents of the PR in full but I think we already have the result mentioned in the PR comment via [`CategoryTheory.RegularEpi.ofSplitEpi`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Shapes/RegularMono.html#CategoryTheory.RegularEpi.ofSplitEpi) and [`CategoryTheory.instEffectiveEpiOfRegularEpi`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/EffectiveEpi/RegularEpi.html#CategoryTheory.instEffectiveEpiOfRegularEpi) and [`CategoryTheory.instSplitEpiCategoryType`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Types/Basic.html#CategoryTheory.instSplitEpiCategoryType)?
> 
> In particular this works in current mathlib
> 
> ```
> import Mathlib
> 
> open CategoryTheory
> 
> attribute [instance] isSplitEpi_of_epi
> 
> instance {X Y : Type _} (f : X ⟶ Y) [Epi f] : EffectiveEpi f := inferInstance
> ```

Oh, I didn't realize to consider split epimorphisms.

For context, what I need (in a forthcoming PR) is a regular epimorphism structure (on a surjective function `f : X ⟶ Y`) with the two maps from `pullback f f`, while SplitEpi instance should provide a regular epimorphism structure with left being identity and right being `retraction ≫  f`.

Is there a straightforward way to derive the former structure from the latter?

**Comment by erdOne** [comment]
Is `CategoryTheory.regularEpiOfEffectiveEpi` what you want?

**Comment by yonggyuchoimath** [comment]
> regularEpiOfEffectiveEpi

Thank you for pointing that out! It seems that I actually already used it under `infer_instance` in the PR...

Should I close this PR?

**Comment by erdOne** [comment]
Maybe you can still add `Surjective f -> IsSplitEpi f` and `Surjective f -> EffectiveEpi f` somewhere if you find them useful?

**Comment by yonggyuchoimath** [comment]
I've removed the `Mathlib.CategoryTheory.EffectiveEpi.Types.lean`, and instead implemented `isSplitEpi_iff_surjective` in `Mathlib.CategoryTheory.Types.Basic.lean`. Additionally, I removed one unnecessary import.

I didn't find a suitable location to add `Surjective f -> EffectiveEpi f` or `Surjective f -> RegularEpi f`, since adding these to `Mathlib.CategoryTheory.Types.Basic.lean` would introduce circular imports. Anyway, once I import `Mathlib.CategoryTheory.EffectiveEpi.RegularEpi` and use `have := (isSplitEpi_iff_surjective f).mpr ‹_›; inferInstance`, I was able to get both `RegularEpi f` and `EffectiveEpi f`.

I don't know how topos theory is being implemented in Mathlib 4; there may be a more appropriate place to include these things? I would appreciate any suggestions on this.

File: Mathlib/CategoryTheory/Types/Basic.lean [hunk 6]
```diff
@@ -358,6 +357,11 @@ instance : SplitEpiCategory (Type u) where
       { section_ := Function.surjInv <| (epi_iff_surjective f).1 hf
         id := funext <| Function.rightInverse_surjInv <| (epi_iff_surjective f).1 hf }
 
+theorem isSplitEpi_iff_surjective {X Y : Type u} (f : X ⟶ Y) :
+    IsSplitEpi f ↔ Function.Surjective f :=
+  Iff.intro (fun _ => surjective_of_epi _)
+    fun hf => @isSplitEpi_of_epi _ _ _ _ _ _ ((epi_iff_surjective f).mpr hf)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Types/Basic.lean]: Could you avoid using `@` here?

Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/Types/Basic.lean]: I've changed it into
```
theorem isSplitEpi_iff_surjective {X Y : Type u} (f : X ⟶ Y) :
    IsSplitEpi f ↔ Function.Surjective f :=
  Iff.intro (fun _ => surjective_of_epi _)
    fun hf => (by simp only [(epi_iff_surjective f).mpr hf, isSplitEpi_of_epi])
```
How does this look?

**Comment by yonggyuchoimath** [comment]
-awaiting-author

**Comment by joelriou** [comment]
Thanks!

bors merge
